US04352795
A mixture of 55 g of 4-chloro-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine and 500 ml of anhydrous hydrazine is heated under reflux and a nitrogen atmosphere for two hours, evaporated in vacuo, and coevaporated with xylenes. The residue is distributed between a mixture of ethyl acetate and water and the aqueous layer reextracted with ethyl acetate. The dried ethyl acetate extracts are combined and evaporated in vacuo to provide 51 g of crude syrupy product. Chromatography of this material over silica gel and ethyl acetate provides 49 g of pure 4-hydrazino-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine as a yellow syrup.

reactant | 4-chloro-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 55 g | ClC=1C2=C(N=C(N1)SC)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C33H32ClN3O4S
reactant | hydrazine | 500 ml | NN | H4N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydrazino-2-methylmercapto-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 49 g | N(N)C=1C2=C(N=C(N1)SC)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C33H35N5O4S
